US07459554B2
1-(3-Benzyloxyphenyl)-3-tert-butylimidazo[1,5-a]pyrazin-8-ylamine:
1-(3-Benzyloxyphenyl)-3-tert-butyl-8-chloroimidazo[1,5-a]pyrazine: A mixture of POCl3 (3 mL, 5 g, 33 mmol) and N-[(3-benzyloxyphenyl)-(3-chloropyrazin-2-yl)-methyl]-2,2-dimethylpropionamide (109 mg, 0.266 mmol) is heated to 55° C. for 6 d. POCl3 is evaporated, a cold solution of NH3 in iPrOH (2 M, 5 mL) is added, the suspension is filtered, and the solid is washed with iPrOH. The crude material contained in the combined filtrate and washings is adsorbed onto Hydromatrix and chromatographed on silica gel [Jones Flashmaster, 10 g/70 mL cartridge, eluting with hexanes:EtOAc 10:1 (1-22)→5:1 (23-40)], yielding the title compound as yellow oil that slowly solidifies; 1H NMR (CDCl3, 400 MHz) δ 1.59 (s, 9H), 5.13 (s, 2H), 7.03 (d, J=8.0 Hz, 1H), 7.27-7.42 (m, 7H), 7.46 (d, J=7.2 Hz, 2H), 7.87 (d, J=4.8 Hz, 1H). MS (ES+): m/z 392.1/394.0 (12/4) [MH+].

reactant | 1-(3-Benzyloxyphenyl)-3-tert-butyl-8-chloroimidazo[1,5-a]pyrazine | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(N2C1C(=NC=C2)Cl)C(C)(C)C | C23H22ClN3O
reactant | POCl3 | 33 mmol, 3 mL, 5 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | N-[(3-benzyloxyphenyl)-(3-chloropyrazin-2-yl)-methyl]-2,2-dimethylpropionamide | 0.266 mmol, 109 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(NC(C(C)(C)C)=O)C1=NC=CN=C1Cl | C23H24ClN3O2
product | 1-(3-Benzyloxyphenyl)-3-tert-butylimidazo[1,5-a]pyrazin-8-ylamine | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C=1N=C(N2C1C(=NC=C2)N)C(C)(C)C | C23H24N4O
